US08084489B2
3-({5-[1-(4′-tert-Butyl-2,6-dimethyl-biphenyl-4-yloxy)-propyl]-thiophene-2-carbonyl}-amino)-propionic acid, Isomer 1
This compound is made by the general method as exemplified in Example 44 using 3-({5-[1-(4-iodo-3,5-dimethyl-phenoxy)-propyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester (isomer 1) and (4-tert-butyl)phenylboronic acid as the starting materials. MS (ES): 494.4 [M+H]+.

reactant | 3-({5-[1-(4-iodo-3,5-dimethyl-phenoxy)-propyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | COC(CCNC(=O)C=1SC(=CC1)C(CC)OC1=CC(=C(C(=C1)C)I)C)=O | C20H24INO4S
reactant | (4-tert-butyl)phenylboronic acid | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | 3-({5-[1-(4′-tert-Butyl-2,6-dimethyl-biphenyl-4-yloxy)-propyl]-thiophene-2-carbonyl}-amino)-propionic acid | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C=C(C=C1C)OC(CC)C1=CC=C(S1)C(=O)NCCC(=O)O)C | C29H35NO4S
